data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_400812_0,[C:1]([O:3][C:2](=[O:6])[H:10])([O:4][H:7])([O:5][H:8])[H:9]>>[C:1]([O:4][H:7])([O:5][H:8])([O:6][C:2](=[O:3])[H:10])[H:9],34.992537500040726
MR_622781_0,[C:1](/[C:3](=[C:2](\[O:6][C:5](=[O:8])[H:12])[O:7][H:9])[N:4]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:2](=[O:6])[O:7][H:9])([N:4]([H:10])[H:11])[C:5](=[O:8])[H:12])([H:13])([H:14])[H:15],35.092937500001256
MR_197905_1,[C:1]([N:2]([O:3][H:5])[H:7])([O:4][H:6])([H:8])[H:9]>>[C:1]([N:2]([O:4][H:6])[H:7])([O:3][H:5])([H:8])[H:9],72.10414250001037
MR_601876_0,[C:1]([C:4]([N:2]([C:3]([N:5]([H:10])[H:11])=[O:8])[O:7][H:9])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:2]/[O:7][H:9])[C:6]([C:3]([N:5]([H:10])[H:11])=[O:8])([H:15])[H:16])([H:12])([H:13])[H:14],62.609440000012455
MR_271244_1,[C:1](=[C:3]([C:2]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[C:8](=[O:9])[H:11])[H:10])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17]>>[C:1]1([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:2]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[C:3]1([C:8](=[O:9])[H:11])[H:10],69.01307750000299
MR_44718_1,[N:1]([C:2]([N:4]([H:10])[H:11])=[O:7])([C:3](=[C:5]([H:12])[H:13])[O:6][H:8])[H:9]>>[N:1](=[C:2](/[N:4]([H:10])[H:11])[O:7][C:3](=[C:5]([H:12])[H:13])[O:6][H:8])\[H:9],69.04256999999987
MR_373051_1,[C:1]([C:2]([C:7]([C:5]([H:20])([H:21])[H:22])=[O:9])([H:12])[H:13])([N:6]([C:3]([H:15])([H:16])[H:17])[C:4]([H:14])([H:18])[H:19])([O:8][H:10])[H:11]>>[C:1]([C:2]([C:7]([C:5]([H:20])([H:21])[H:22])([N:6]([C:3]([H:15])([H:16])[H:17])[C:4]([H:14])([H:18])[H:19])[O:9][H:10])([H:12])[H:13])(=[O:8])[H:11],33.32966249995877
MR_19292_0,[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:4]([N:5]([H:9])[H:10])=[N:7]/[C:2]([H:13])([H:14])[H:15])([N:6]([H:11])[H:12])[H:8]>>[C:1](\[C:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:9])[H:10])[N:7]([C:2]([H:13])([H:14])[H:15])[H:12])(=[N:6]/[H:11])[H:8],71.6586174999938
MR_31292_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([N:3]([N:6]([H:10])[H:11])[H:9])[O:7][H:8])([H:12])([H:13])[H:17]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:3]/[N:6]([H:10])[H:11])[O:7][H:8])[H:9])([H:12])([H:13])[H:17],50.43405750000545
MR_517260_0,[C:1]([O:7][N:2](/[C:3]([N:5]([H:12])[H:13])=[C:6](/[O:8][H:9])[H:14])[N:4]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1]([O:7][C@:6](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([O:8][H:9])[H:14])([H:15])([H:16])[H:17],19.80264499997574
MR_523663_0,[C:1]([N:4]([N:5]([H:8])[H:9])[O:6][C:2]([H:12])([H:13])[H:14])([O:7][C:3]([H:15])([H:16])[H:17])([H:10])[H:11]>>[C:1]([N:4]([N:5]([H:8])[H:9])[O:7][C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])([H:10])[H:11],56.48629499999146
MR_486686_0,[C:1]([C:4]([O:6][C:5]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:7][H:11])[O:8][H:10])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:5]([C:2]([H:15])([H:16])[H:17])([C:3](=[O:7])[O:8][H:10])[O:6][H:11])=[O:9])([H:12])([H:13])[H:14],43.16509749998815
MR_336971_0,[C:1]([C:3]([N:2]([O:5][H:8])[N:6]=[C:4]([H:12])[H:13])=[O:7])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:2]/[O:5][H:8])[O:7][N:6]=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11],71.82302249997107
MR_189958_0,[C:1]([N:3]([C:2]([H:8])([H:11])[H:12])[O:4][N:5]=[O:6])([H:7])([H:9])[H:10]>>[C:1]([N:3]([C:2]([H:8])([H:11])[H:12])[O:6][N:5]=[O:4])([H:7])([H:9])[H:10],33.750714999965794
MR_392646_0,[C:1]1([O:7][H:9])([H:11])[C:4]([C:2]([H:12])([H:13])[H:14])=[C:3]([O:8][H:10])[C:5]1=[C:6]([H:15])[H:16]>>[C:1]([C:5](/[C:3](=[C:4](/[C:2]([H:12])([H:13])[H:14])[H:9])[O:8][H:10])=[C:6]([H:15])[H:16])(=[O:7])[H:11],64.62873499997926
MR_631581_1,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:7](/[C:5]([H:21])([H:22])[H:23])[N:9]([C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])[O:8][H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])(/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]/[C:3]([H:15])([H:16])[H:17])[O:8][H:11],55.604657500005885
MR_621372_0,[C@:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:10])[H:11])[H:12])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](/[C:3]([H:16])([H:17])[H:18])[C:6]([N:5]([H:10])[H:11])([H:9])[H:12])[O:7][H:8],70.07292500000233
MR_289266_0,[C:1]([N:4]([N:3]([N:5]([H:9])[H:10])/[N:7]=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:8])([H:12])([H:13])[H:14]>>[C:1]([N:4]([C@:6]([C:2]([H:15])([H:16])[H:17])(/[N:7]=[N:3]/[N:5]([H:9])[H:10])[H:11])[H:8])([H:12])([H:13])[H:14],46.00829999997927
MR_36926_2,[C:1]([N:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])/[N:7]=[C:6](/[N:5]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3]1[C:6]([N:5]([H:9])[H:10])([H:11])[N:7]1[C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])([H:12])([H:13])[H:14],68.55813999997451
MR_244346_2,[C:1](/[C:3]([C:2](=[C:5]([H:14])[H:15])[O:6][H:8])=[N:7]/[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[C:5]([H:14])([H:15])[N:7]1[N:4]([H:9])[H:10])([H:11])([H:12])[H:13],62.84663500001997
